US06765012B2
4-Methyl-3-{[4-(3-morpholin-4-yl-propylamino)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
The named compound is prepared by substituting 4-methyl-1,3-dihydro-indol-2-one for the 1,3-dihydro-indol-2-one and N-(3-morpholin-4-yl-propyl)-benzene-1,4-diamine (used for the preparation of Example 290) for aniline in the reaction of Example 1.

reactant | 4-methyl-1,3-dihydro-indol-2-one | CC1=C2CC(NC2=CC=C1)=O | C9H9NO
reactant | 1,3-dihydro-indol-2-one | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | N-(3-morpholin-4-yl-propyl)-benzene-1,4-diamine | N1(CCOCC1)CCCNC1=CC=C(C=C1)N | C13H21N3O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 4-Methyl-3-{[4-(3-morpholin-4-yl-propylamino)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | CC1=C2C(C(NC2=CC=C1)=O)=CNC1=CC=C(C=C1)NCCCN1CCOCC1 | C23H28N4O2
